US09034900B2
Step 4: 1-bromo-5-(bromomethyl)-4-fluoro-2-methoxybenzene
PBr3 (4.7 g, 17.4 mmol) was added drop-wise to a solution of (5-bromo-2-fluoro-4-methoxyphenyl)methanol (4.1 g, 17.4 mmol) in anhydrous CH2Cl2 (40 mL) at 0° C. The mixture was stirred at room temperature for 3 h and poured into ice water. The pH was adjusted to 8 with saturated aqueous NaHCO3. Extractive work up with CH2Cl2 gave the title compound (4.9 g, 94.8%) as a white solid which was carried on without purification. 1H NMR (DMSO-d6, 400 MHz) δ 7.56 (d, J=8.0 Hz, 1H), 6.65 (d, J=11.6 Hz, 1H), 4.46 (s, 2H), 3.89 (s, 3H).

reactant | PBr3 | 17.4 mmol, 4.7 g | P(Br)(Br)Br | Br3P
reactant | (5-bromo-2-fluoro-4-methoxyphenyl)methanol | 17.4 mmol, 4.1 g | BrC=1C(=CC(=C(C1)CO)F)OC | C8H8BrFO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-bromo-5-(bromomethyl)-4-fluoro-2-methoxybenzene | 4.9 g, 94.8% | BrC1=C(C=C(C(=C1)CBr)F)OC | C8H7Br2FO
